US07091220B2
[(2-Chloro-4-fluoro-phenyl)-(4-nitro-1H-indol-3-yl)-methyl]-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 4-nitroindole and (2-chloro-4-fluoro-benzylidene)-dimethyl-ammonium chloride, which had been prepared in accordance with example 24 from 2-chloro-4-fluoro-benzaldehyde and dimethylamine.

reactant | 4-nitroindole | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
reactant | (2-chloro-4-fluoro-benzylidene)-dimethyl-ammonium chloride | [Cl-].ClC1=C(C=[N+](C)C)C=CC(=C1)F
reactant | 2-chloro-4-fluoro-benzaldehyde | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | dimethylamine | CNC | C2H7N
product | [(2-Chloro-4-fluoro-phenyl)-(4-nitro-1H-indol-3-yl)-methyl]-dimethyl-amine | ClC1=C(C=CC(=C1)F)C(C1=CNC2=CC=CC(=C12)[N+](=O)[O-])N(C)C | C17H15ClFN3O2
